US07713973B2
N-(4-(5-(5-methyl-1H-pyrazol-3-ylamino)-2-((methylamino)methyl)imidazo[1,2-c]pyrimidin-7-ylthio)phenyl)cyclopropanecarboxamide
The title compound was synthesized using N-(4-(2-(hydroxymethyl)-5-(5-methyl-1H-pyrazol-3-ylamino)imidazo[1,2-c]pyrimidin-7-ylthio)phenyl)cyclopropanecarboxamide and methyl amine using the procedure described in Example 283. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.82 (d, J=5.56 Hz, 4H) 1.82 (dt, J=12.06, 5.97 Hz, 1H) 2.11 (s, 3H) 3.28 (s, 3H) 4.03 (s, 2H) 5.84 (s, 1H) 6.49 (s, 1H) 7.53 (d, J=8.08 Hz, 2H) 7.75 (d, J=8.08 Hz, 2H) 8.27 (s, 1H) 10.48 (s, 1H) 12.12 (s, 1H); ESI-MS: m/z calc'd for C22H24N8OS 448.54; found 449.4 (M+H)+.

reactant | N-(4-(2-(hydroxymethyl)-5-(5-methyl-1H-pyrazol-3-ylamino)imidazo[1,2-c]pyrimidin-7-ylthio)phenyl)cyclopropanecarboxamide | OCC=1N=C2N(C(=NC(=C2)SC2=CC=C(C=C2)NC(=O)C2CC2)NC2=NNC(=C2)C)C1 | C21H21N7O2S
reactant | methyl amine | CN | CH5N
product | N-(4-(5-(5-methyl-1H-pyrazol-3-ylamino)-2-((methylamino)methyl)imidazo[1,2-c]pyrimidin-7-ylthio)phenyl)cyclopropanecarboxamide | CC1=CC(=NN1)NC1=NC(=CC=2N1C=C(N2)CNC)SC2=CC=C(C=C2)NC(=O)C2CC2 | C22H24N8OS
